US06486210B2
A solution of 2,4,6-trifluorophenylacetylene (0.02 mol), 4-nitrobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to General Procedure 2 to form (Z)-2,4,6-trifluorostyryl-4-nitrobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to General Procedure 2.

reactant | 2,4,6-trifluorophenylacetylene | 0.02 mol | FC1=C(C(=CC(=C1)F)F)C#C | C8H3F3
reactant | 4-nitrobenzyl mercaptan | 0.02 mol | [N+](=O)([O-])C1=CC=C(CS)C=C1 | C7H7NO2S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4,6-trifluorostyryl-4-nitrobenzylsulfide | FC1=C(\C=C/C(C2=CC=C(C=C2)[N+](=O)[O-])SC(C2=CC=C(C=C2)[N+](=O)[O-])\C=C/C2=C(C=C(C=C2F)F)F)C(=CC(=C1)F)F | C30H18F6N2O4S
